US07919488B2
4-{5-(4-fluorobenzyl)-1-[1-(methylsulfonyl)azetidin-3-yl]-1H-pyrazol-3-yl}pyridine
To a solution of 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine (75 mg, 0.24 mmol) in CH2Cl2 (2 mL) was added methanesulfonyl chloride (19 μL, 0.24 mmol) and triethylamine (37 □L, 0.26 mmol) and the reaction mixture was stirred at room temperature for 2 hours. The solution was then loaded directly onto a pre-wetted Biotage 25M column and purified by flash chromatography (0-5% MeOH/CH2Cl2) to give the title compound as a white solid, 77 mg, 83%. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 8.58-8.67 (2 H, m), 7.59-7.69 (2 H, m), 6.97-7.13 (4 H, m), 6.49 (1 H, s), 4.84-4.98 (1 H, m), 4.45 (2 H, dd, J=8.97, 6.44 Hz), 4.05 (2 H, t, J=8.34 Hz), 4.01 (2 H, s,) 3.05 (3 H, s); m/z (APCI+) for C19H19N4O2SF 387.1 (M+H)+.

reactant | 4-(5-(4-fluorobenzyl)-1-(azetidin-3-yl)-1H-pyrazol-3-yl)pyridine | 0.24 mmol, 75 mg | FC1=CC=C(CC2=CC(=NN2C2CNC2)C2=CC=NC=C2)C=C1 | C18H17FN4
reactant | methanesulfonyl chloride | 0.24 mmol, 19 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.26 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-{5-(4-fluorobenzyl)-1-[1-(methylsulfonyl)azetidin-3-yl]-1H-pyrazol-3-yl}pyridine | FC1=CC=C(CC2=CC(=NN2C2CN(C2)S(=O)(=O)C)C2=CC=NC=C2)C=C1 | C19H19FN4O2S
